US04172891
Production of sodium 7-[2-(2-imino-3-hydroxy-4-thiazolin-4-yl)acetamido]-3-(3-hydroxymethyl-4-methyl-1,2,4-triazol-5-yl)thiomethyl-3-cephem-4-carboxylate
In 20 ml of phosphate buffer (pH 6.4) is dissolved 1.0 g of 7-[2-(2-imino-3-hydroxy-4-thiazolin-4-yl)acetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid together with 0.3 g of 3-hydroxymethyl-4-methyl-1,2,4-triazole-5-thiol and 0.336 g of sodium hydrogen carbonate and the solution is stirred at 70° C. for 2 hours . This reaction mixture is subjected to column chromatography on polystyrene resin (Amberlite XAD-2) with water as the developer and the fractions containing the contemplated product are pooled. This solution contains 3-hydroxymethyl-4-methyl-1,2,4-triazole-5-thiol together with the desired compound. The solution is lyophilized and the resultant powder is redissolved in water. The solution is then subjected to column chromatography on dextran gel (Sephadex LH-20®, Pharmacia) with water as the developer. The fractions containing the contemplated compound are pooled and lyophilized. By the above procedure is obtained the captioned compound. Yield 0.28 g.

reactant | 7-[2-(2-imino-3-hydroxy-4-thiazolin-4-yl)acetamido]-3-acetoxymethyl-3-cephem-4-carboxylic acid | 1.0 g | N=C1SC=C(N1O)CC(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O | C15H16N4O7S2
reactant | 3-hydroxymethyl-4-methyl-1,2,4-triazole-5-thiol | 0.3 g | OCC1=NN=C(N1C)S | C4H7N3OS
reactant | sodium hydrogen carbonate | 0.336 g | C(O)([O-])=O.[Na+]
reactant | water | O | H2O
solvent | phosphate | 20 ml, pH 6.4 | P(=O)([O-])([O-])[O-]
product | sodium 7-[2-(2-imino-3-hydroxy-4-thiazolin-4-yl)acetamido]-3-(3-hydroxymethyl-4-methyl-1,2,4-triazol-5-yl)thiomethyl-3-cephem-4-carboxylate | N=C1SC=C(N1O)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2N(C(=NN2)CO)C)C(=O)[O-])C1=O.[Na+] | InChI=1S/C17H19N7O6S3.Na/c1-22-9(3-25)20-21-17(22)33-5-7-4-31-14-11(13(27)23(14)12(7)15(28)29)19-10(26)2-8-6-32-16(18)24(8)30;/h6,11,14,18,25,30H,2-5H2,1H3,(H,19,26)(H,28,29);/q;+1/p-1/t11?,14-;/m1./s1
